US04083725
A solution of 11.2 g of bromine in 20.5 g of acetic acid was added dropwise to a mixture of 11.5 g of benzanthrone, 184 g of acetic acid and 23 g of water with stirring. The total mixture was heated with stirring to 100° C for 5.5 hours. The precipitated crystals were filtered and washed with water and dried. The product was recrystallized from a mixture of 88.3 g of chlorobenzene and 6.3 g of methanol whereby 10.52 g of 3-bromobenzanthrone were obtained.

reactant | bromine | 11.2 g | BrBr | Br2
reactant | benzanthrone | 11.5 g | C1=CC=C2C=CC=C3C(=O)C4=CC=CC=C4C1=C23 | C17H10O
reactant | water | 23 g | O | H2O
solvent | acetic acid | 20.5 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 184 g | C(C)(=O)O | C2H4O2
product | 3-bromobenzanthrone | 10.52 g | BrC=1C=CC=2C3=CC=CC=C3C(C3=CC=CC1C23)=O | C17H9BrO
